US08981139B2
Synthesis of N-Acetyl Penicillamine (NAP) Thiolactone.
Acetic anhydride (96 mmol, 9.80 g) was added dropwise to a well stirred solution of D-(−) penicillamine (40 mmol, 5.97 g) in pyridine (50 mL) at 0° C. After 30 min, the flask was removed from ice and allowed to stir at room temperature for 15 h. The resultant orange solution was partitioned between chloroform and dilute HCl and washed 4× with dilute HCl. After drying over MgSO4, the organic phase was evaporated to yield an orange residue. The residue was first dissolved in absolute ethanol (20 mL), and then precipitated in pentane at −78° C. The light yellow crystalline product was isolated by filtration (2.07 g, 30%). 1H NMR (CDCl3) δ 1.65 (s, CH3), 1.86 (s, CH3), 2.05 (s, NHCOCH3), 5.68-5.70 (d, CH(CH3)2), 6.56 (NHCOCH3). 13C NMR (CDCl3) δ 22.52 (NHCOCH3), 26.20 (CH(CH3)2), 30.22 (CH(CH3)2), 51.23 (CH), 169.37 (NHCOCH3), 192.21 (SCO).

reactant | Acetic anhydride | 96 mmol, 9.80 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | penicillamine | 40 mmol, 5.97 g | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-Acetyl Penicillamine | C(C)(=O)N[C@@H](C(C)(C)S)C(=O)O | C7H13NO3S
